US07872128B2
Step 6: Methyl-6-chloro-3-(4-ethylphenylamino)benzo[d]isoxazole-7-carboxylate
To a solution of methyl-6-chloro-3-(N-(4-ethylphenyl)-N′-hydroxycarbamimidoyl)-2-fluorobenzoate (225 mg, 641 μmol) in DMF (6.4 ml) chilled to 0° C. was added NaH (17 mg, 706 μmol) in one portion. The yellow solution evolved gas and immediately turned a dark orange color. After 20 min, the mixture was diluted with H2O and DCM, the layers were separated and the aqueous layer was extracted with DCM (2×). The organic layers were combined and washed with brine, dried over MgSO4, filtered and concentrated to provide the title compound as a light brown solid, which was used for the next step without further purification.

reactant | methyl-6-chloro-3-(N-(4-ethylphenyl)-N′-hydroxycarbamimidoyl)-2-fluorobenzoate | 641 μmol, 225 mg | COC(C1=C(C(=CC=C1Cl)C(NC1=CC=C(C=C1)CC)=NO)F)=O | C17H16ClFN2O3
reactant | NaH | 706 μmol, 17 mg | [H-].[Na+]
solvent | DMF | 6.4 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Methyl-6-chloro-3-(4-ethylphenylamino)benzo[d]isoxazole-7-carboxylate | COC(=O)C1=C(C=CC=2C(=NOC21)NC2=CC=C(C=C2)CC)Cl | C17H15ClN2O3
